US04562179
To a stirred suspension of sodium hydride (2.40 g, 60% oil dispersion, washed with dry petroleum ether) in dry tetrahydrofuran (40 ml) was portionwise added (rac)-1-O-trityl-1,2-octadecanediol (12.2 g) at ambient temperature. After the mixture was stirred for 30 minutes at the same temperature, a solution of methyl iodide (13.1 g) in dry tetrahydrofuran (40 ml) was dropwise added during a period of 45 minutes. After stirring for 3.5 hours at the same temperature, the mixture was evaporated under reduced pressure. The residue was dissolved in a mixture of diethyl ether and 0.5N aqueous sulfuric acid. The separated organic layer was dried and evaporated under reduced pressure. The residue was triturated in petroleum ether to remove impurities by filtration. The filtrate was evaporated to yield 9.8 g of (rac)-1-O-trityl-2-O-methyl-1,2-octadecanediol.

reactant | sodium hydride | 2.40 g | [H-].[Na+]
reactant | (rac)-1-O-trityl-1,2-octadecanediol | 12.2 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)OCC(CCCCCCCCCCCCCCCC)O | C37H52O2
reactant | methyl iodide | 13.1 g | CI | CH3I
solvent | tetrahydrofuran | 40 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 40 ml | O1CCCC1 | C4H8O
product | (rac)-1-O-trityl-2-O-methyl-1,2-octadecanediol | 9.8 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)OCC(CCCCCCCCCCCCCCCC)OC | C38H54O2
